US04283532
(ii) Preparation of o-(2,6-dichloroanilino)phenylacetic acid
To 40 ml of a 15% ethanol solution of potassium hydroxide was added 1.7 g of N,N-dimethyl-o-(2,6-dichloroanilino)phenylacetamide, and the mixture was agitated under reflux for 4 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and 30 ml of water was added to the residue and the mixture was made acidic by hydrochloric acid at a temperature lower than 5° C. The precipitated crystal was recovered by filtration under suction, washed with water and dried. Recrystallization from a mixed solvent of ether and petroleum ether gave 1.45 g of a colorless crystal having a melting point of 158° to 160° C. The yield was 92.9%.

reactant | potassium hydroxide | [OH-].[K+]
reactant | N,N-dimethyl-o-(2,6-dichloroanilino)phenylacetamide | 1.7 g | CN(C(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O)C | C16H16Cl2N2O
solvent | ethanol | C(C)O | C2H6O
product | o-(2,6-dichloroanilino)phenylacetic acid | 1.45 g, yield was 92.9% | ClC1=C(NC2=C(C=CC=C2)CC(=O)O)C(=CC=C1)Cl | C14H11Cl2NO2
